US06506901B2
Step C: 4-{[t-Butyl(diphenyl)silyl]oxy}-2-chlorophenol
4-{[t-butyl(diphenyl)silyl]oxy}-2-chlorophenyl formate (9.42 g, 22.4 mmol) was dissolved in methanol (50 mL). 10% KOH (15 mL) was added. The solution was stirred for 30 minutes at ambient temperature. The solvent was removed in vacuo and the solid partitioned between ethyl acetate and water. The aqueous phase was acidified with HCl and extracted three times with ethyl acetate. The organic layers were combined and the solvent dried over anhydrous magnesium sulfate. The solution was filtered and the solvent evaporated to dryness in vacuo to yield crude title compound (8.04 g, 21 mmol).

reactant | 4-{[t-butyl(diphenyl)silyl]oxy}-2-chlorophenyl formate | 22.4 mmol, 9.42 g | C(=O)OC1=C(C=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)Cl | C23H23ClO3Si
reactant | KOH | 15 mL | [OH-].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 4-{[t-Butyl(diphenyl)silyl]oxy}-2-chlorophenol | 21 mmol, 8.04 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC(=C(C=C1)O)Cl | C22H23ClO2Si
